US05700448
N,N'-bis(2,3-dihydroxypropyl)-1-hydroxybenzene-3,5-dicarboxylic acid diamide
Dimethyl 5-hydroxyisophthalate (12.6 g, 60 mmol) was dissolved in methanol (36 mL) containing 3-amino-1,2-dihydroxypropane (16.4 g, 180 mmol). The mixture was heated to reflux temperature for 10 days, and, after cooling to room temperature, was evaporated. Acetone (100 mL) was added to the residue and the crystalline solid was collected by filtration. The product was purified by recrystallization from acetone. Yield 9.0 g (46%).

reactant | Dimethyl 5-hydroxyisophthalate | 60 mmol, 12.6 g | OC=1C=C(C=C(C(=O)OC)C1)C(=O)OC | C10H10O5
reactant | 3-amino-1,2-dihydroxypropane | 180 mmol, 16.4 g | NCC(CO)O | C3H9NO2
solvent | methanol | 36 mL | CO | CH4O
product | N,N'-bis(2,3-dihydroxypropyl)-1-hydroxybenzene-3,5-dicarboxylic acid diamide | OC(CNC(=O)C=1C=C(C=C(C1)C(=O)NCC(CO)O)O)CO | C14H20N2O7
